US05231102
Step a: 3-(tert-Butyloxycarbonylamino)methyl benzoic acid
To a solution of 3-cyanobenzoic acid (1.0 g, 6.79 mmol) in ethanol (150 ml) was added 100 mg of 10% palladium on carbon and the mixture was hydrogenated at 50 psi for approximately 18 h. Di-tert-butyl dicarbonate (1.63 g, 7.47 mmol) was added to the mixture, with a further 110 mg of catalyst and hydrogenation was continued under the same conditions for a further 20 h. After this time all the starting material had been consumed by t.l.c. (solvent: 1% MeOH, 0.5% AcoH, 98.5% CH2Cl2). The catalyst was removed by filtration, and the ethanol was removed by rotary evaporation to give an orange oil which crystallised after drying under high vacuum (1 h). The product was recrystallised for ether/hexane to give the title compound as colourless crystalls, m.p. 127°-128° C. δ (CDCl3, 250 MHz) 1.47(9H, s, C(CH3)3), 4.39 (2H, d, J= 5.9 Hz, ArCH2NH), 4.95 (1H, br s, NH), 7.44 (1H, t, J=7.8 Hz, Ar-H), 7.56 (1H, m, Ar-H), 8.01 (2H, m, Ar-H).

reactant | 3-cyanobenzoic acid | 6.79 mmol, 1.0 g | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | Di-tert-butyl dicarbonate | 7.47 mmol, 1.63 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 3-(tert-Butyloxycarbonylamino)methyl benzoic acid | C(C)(C)(C)OC(=O)NCC=1C=C(C(=O)O)C=CC1 | C13H17NO4
